US09029531B2
Step A: ethyl 2-(4-((tert-butoxycarbonyl)amino)phenyl)acetate
A solution of di-tert-butyl dicarbonate (387 mg, 1.77 mmol) in toluene (5 ml) was added a vessel containing ethyl 2-(4-aminophenyl)acetate (288 mg, 1.61 mmol), the reaction mixture was heated at 85° C. for 4 h. LCMS showed that the desired product was detected, the mixture was concentrated to give the residue, the residue was purified by a standard method to give the desired product. LC-MS: m/z (M+H)=280.3

reactant | di-tert-butyl dicarbonate | 1.77 mmol, 387 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl 2-(4-aminophenyl)acetate | 1.61 mmol, 288 mg | NC1=CC=C(C=C1)CC(=O)OCC | C10H13NO2
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 2-(4-((tert-butoxycarbonyl)amino)phenyl)acetate | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)CC(=O)OCC | C15H21NO4
